US08372837B2
To a stirring solution of tert-butyl 4-(3-(hydroxymethyl)-1-(4-(methylsulfonyl)phenyl)-6-oxo-1,6-dihydropyridazin-4-yloxy)piperidine-1-carboxylate (200 mg, 0.417 mmol) in DCM (3 mL) at room temperature under argon was added 4 M HCl in dioxane (0.521 mL, 2.085 mmol). The reaction mixture was stirred at room temperature overnight. Et2O (10 mL) was added to the reaction mixture. The solid product was collected by filtration and further washed with ether (2 mL×2). After drying under vacuum for 2 hours, 171 mg (100%) of 6-(hydroxymethyl)-2-(4-(methylsulfonyl)phenyl)-5-(piperidin-4-yloxy)pyridazin-3(2H)-one HCl salt was obtained as an off-white solid. MS (ESI) 380 (M+H).

reactant | tert-butyl 4-(3-(hydroxymethyl)-1-(4-(methylsulfonyl)phenyl)-6-oxo-1,6-dihydropyridazin-4-yloxy)piperidine-1-carboxylate | 0.417 mmol, 200 mg | OCC1=NN(C(C=C1OC1CCN(CC1)C(=O)OC(C)(C)C)=O)C1=CC=C(C=C1)S(=O)(=O)C | C22H29N3O7S
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 2.085 mmol, 0.521 mL | O1CCOCC1 | C4H8O2
reactant | Et2O | 10 mL | CCOCC | C4H10O
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 6-(hydroxymethyl)-2-(4-(methylsulfonyl)phenyl)-5-(piperidin-4-yloxy)pyridazin-3(2H)-one HCl salt | 171 mg, 100% | Cl.OCC=1C(=CC(N(N1)C1=CC=C(C=C1)S(=O)(=O)C)=O)OC1CCNCC1 | InChI=1S/C17H21N3O5S.ClH/c1-26(23,24)14-4-2-12(3-5-14)20-17(22)10-16(15(11-21)19-20)25-13-6-8-18-9-7-13;/h2-5,10,13,18,21H,6-9,11H2,1H3;1H
